US06828460B2
cis-N-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] Methane Sulfonamide
A round bottomed flask equipped with magnetic stirrer was charged with cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine (47 mg, 0.108 mmol) and 1,2-dichloroethane (4 ml). To the stirred solution was added methanesulfonyl chloride (10 μl, 0.12 mmol), triethylamine (30 μl, 0.22 mmol) and 4-dimethylaminopyridine (catalytic amount). The solution was stirred for 17 hr then partitioned between aqueous sodium hydroxide (5 ml, 0.2M) and dichloromethane (5 ml). The aqueous phase was extracted with dichloromethane (2×5 ml) and the combined organic layers were washed with brine (8 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was adsorbed onto silica gel and purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, gradient elution using 1:9, 1:4, then 1:3, v/v) to give the title compound (39 mg, 70%) which solidified on standing. δH(CDCl3) 0.17 (6H, s), 0.23 (6H, s), 0.97 (9H, s), 1.00 (9H, s), 1.53 (2H, m), 1.71 (4H, m), 1.94 (2H, m), 2.85 (1H, m), 2.99 (3H, s), 3.78 (1H, m), 4.83 (1H, d), 6.28 (1H, d), 6.42 (1H, dd), 6.97 (1H, d).

reactant | cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 0.108 mmol, 47 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)N | C24H45NO2Si2
reactant | methanesulfonyl chloride | 0.12 mmol, 10 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.22 mmol, 30 μl | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
product | cis-N-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] Methane Sulfonamide | 39 mg, 70% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)NS(=O)(=O)C | C25H47NO4SSi2
